US08044044B2
17.i. 2-(1,4-dioxa-spiro[4.5]dec-8-yl)-3-hydroxy-3-(6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid ethyl ester
To a solution of (1,4-dioxa-spiro[4.5]dec-8-yl)-acetic acid ethyl ester (3.6 g, 15.77 mmol) in THF (50 mL) cooled to −78° C. was added LiHMDS (1M in THF, 18.1 mL) under argon. The resulting solution was stirred for 1 h at −40° C., then recooled to −78° C. 6-methoxy-[1,5]naphthyridine-4-carbaldehyde (3.56 g, 18.92 mmol; prepared according to WO 2006/032466) was added portionwise and stirring was continued for 30 min at −78° C. The reaction mixture was quenched by the addition of aq. NH4Cl. The two layers were separated and the aq. layer was extracted with EA. The combined org. layers were washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was chromatographed (Hept-EA 1-2→EA) to afford a diastereoisomeric 1:1 mixture of the title compound as a pale yellow oil (4.44 g, 68% yield).

reactant | (1,4-dioxa-spiro[4.5]dec-8-yl)-acetic acid ethyl ester | 15.77 mmol, 3.6 g | C(C)OC(CC1CCC2(OCCO2)CC1)=O | C12H20O4
reactant | LiHMDS | 1M, 18.1 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 6-methoxy-[1,5]naphthyridine-4-carbaldehyde | 18.92 mmol, 3.56 g | COC=1N=C2C(=CC=NC2=CC1)C=O | C10H8N2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(1,4-dioxa-spiro[4.5]dec-8-yl)-3-hydroxy-3-(6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid ethyl ester | 4.44 g, 68% yield | C(C)OC(C(C(C1=CC=NC2=CC=C(N=C12)OC)O)C1CCC2(OCCO2)CC1)=O | C22H28N2O6
